US06423713B1
A mixture of 4-[3-(4-fluorophenyl)-5-methyl-1H-pyrazol-4-yl]pyridine prepared as set forth in Example A-4 (5.83 g, 24.0909 mmol) and potassium permanganate (7.6916 g, 48.1818 mmol) in water (7.5 ml) and tert-butanol (10 ml) was heated at reflux for 6 hours (or until all the potassium permanganate was consumed). The mixture was then stirred at room temperature overnight and then diluted with water (150 ml). Manganese dioxide was removed from the mixture by filtration. The filtrate was extracted with ethyl acetate to remove unreacted starting material. The aqueous layer was acidified with 1N HCl to increase the pH to about 6. A white precipitate formed, was collected by filtration, washed with water, and dried in a vacuum oven to give 5-(4-fluorophenyl)-4-(4-pyridinyl)-1H-pyrazole-3-carboxylic acid (isolated as the monohydrate salt) (2.9777 g, 43.7%). Anal. Calc'd for C15H10N3FO2.H2O (283+18): C, 59.80; H, 4.01; N, 13.95; Found: C, 59.48; H, 3.26; N, 13.65. MS (MH30): 284 (base peak)

reactant | 4-[3-(4-fluorophenyl)-5-methyl-1H-pyrazol-4-yl]pyridine | FC1=CC=C(C=C1)C1=NNC(=C1C1=CC=NC=C1)C | C15H12FN3
reactant | potassium permanganate | 48.1818 mmol, 7.6916 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | water | 7.5 ml | O | H2O
solvent | tert-butanol | 10 ml | C(C)(C)(C)O | C4H10O
product | 5-(4-fluorophenyl)-4-(4-pyridinyl)-1H-pyrazole-3-carboxylic acid | FC1=CC=C(C=C1)C1=C(C(=NN1)C(=O)O)C1=CC=NC=C1 | C15H10FN3O2
